US08420655B2
To a solution of 2-formylphenylboronic acid (500 mg, 3.33 mmol) in CH2Cl2 (30 mL) are added 3,5-dimethyl-1H-pyrazole (160 mg, 1.67 mmol), Cu(OAc)2 (909 mg, 5.0 mmol), pyridine (528 mg, 6.67 mmol) and molecular sieves (1.0 g) at room temperature. The mixture is stirred at the same temperature for 4 days with loose cap. The mixture is filtered through a short pad of diatomaceous earth and the solids are washed with CH2Cl2. The combined filtrates are concentrated and purified via flash chromatography (12 g silica gel, CH2Cl2 then 20% EtOAc/heptane) to afford 2-(3,5-dimethyl-pyrazol-1-yl)-benzaldehyde (50 mg, 8%).

reactant | 2-formylphenylboronic acid | 3.33 mmol, 500 mg | C(=O)C1=C(C=CC=C1)B(O)O | C7H7BO3
reactant | 3,5-dimethyl-1H-pyrazole | 1.67 mmol, 160 mg | CC1=NNC(=C1)C | C5H8N2
reactant | pyridine | 6.67 mmol, 528 mg | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | 5.0 mmol, 909 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 2-(3,5-dimethyl-pyrazol-1-yl)-benzaldehyde | 50 mg, 8% | CC1=NN(C(=C1)C)C1=C(C=O)C=CC=C1 | C12H12N2O
